### PR TITLE
Prove a minimum spending condition for proposals

### PR DESCRIPTION
**Pull request by williamdemeo**
# Description

When completed, this PR will address issue #359.

# Checklist

- [x] Commit sequence broadly makes sense and commits have useful messages
- [x] Code is formatted according to [CONTRIBUTING.md](https://github.com/input-output-hk/formal-ledger-specifications/blob/master/CONTRIBUTING.md)
- [x] Self-reviewed the diff

### CODE REVIEW

File: src/Ledger/Utxo/Properties.lagda [hunk 1]
```diff
@@ -544,3 +544,139 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+      -- Lemmas -------------------------------------------------------------------------
+      coin-hom : ∀ {val} {c} → coin (val + inject c) ≡ coin val + c
+      coin-hom {val} {c} = begin
+        coin (val + inject c)         ≡⟨ homo coinIsMonoidHomomorphism val (inject c) ⟩
+        coin val + (coin ∘ inject) c  ≡⟨ cong (coin val +_) (property c) ⟩
+        coin val + c                  ∎
+
+      module _ {txid : TxId} {gaDep : Coin} {deposits : DepositPurpose ⇀ Coin}
+        where
+        updatePropDeps≥ : (props : List GovProposal)
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:615]: Since you're already using a module to share arguments, why not `props` as well?

File: src/Ledger/Utxo/Properties.lagda [hunk 2]
```diff
@@ -544,3 +544,139 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+
+        Δ≡ : getCoin (updateProposalDeposits pp txb deps) - getCoin deps ≡ govActionDeposit * length txprop
+        Δ≡ = trans (updatePropDeps≡ txprop) (*-comm (length txprop) govActionDeposit)
+
+        +Δ≥ : posPart (getCoin (updateDeposits pp txb deps) - getCoin deps)
+             ≥ (getCoin (updateProposalDeposits pp txb deps) ∸ getCoin deps)
+        +Δ≥ = ≤-trans (≤→∸c≤∸c (getCoin deps) updateDeposits≥)
+                      (∸≤posPart⊖ {getCoin (updateDeposits pp txb deps)} {getCoin deps})
+
+      iii = trans (sym coin-hom) (trans (cong coin c≡p) coin-hom')
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:661]: This would benefit from `≡-Reasoning` and inlining

**Review by WhatisRT — CHANGES_REQUESTED** [review]
Looks good overall, but there are lots of smaller things that need to be fixed before we can merge it.

File: src/Data/Nat/Properties/Ext.agda [hunk 3]
```diff
@@ -28,3 +28,25 @@ negInduction {P = P} P? P0 (N , ¬PN)
     k≤N⇒Pk : ∀ {k} → k ≤ N → P k
     k≤N⇒Pk {zero}  k≤N = P0
     k≤N⇒Pk {suc k} k≤N = proj₂ $ k<N⇒P'k k≤N
+
+
+≤-+ : ∀{m n : ℕ} → m ≤ m + n
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Data/Nat/Properties/Ext.agda:33]: Not sure how I missed that when I looked around for it.  Do you know of a good way to search for such lemmas?  Do you use `ag` or `search-about` or something like that?

**Review by jmchapman — CHANGES_REQUESTED** [review]
My main comment at this point is to create the top level inequality reason proof and inline the equality steps of the lemmas ii-v. Leaving the equality bits in the where clauses of those lemmas i-v as separate lemmas to start with and see how this looks.

Regarding how to approach the refactoring - I suggest to turn `gmsc` into a very short inequality-reasoning proof and then expand it by pulling in the lemmas one at a time. This way you can do it incrementally but always have something which will typecheck

**Comment by williamdemeo** [comment]
Thanks for the comments @jmchapman.  I cleaned up the proof substantially, following the suggestion to make a top-level (in)equational reasoning proof, and in-lined some of the lemmas that were previously separate.  I'm really pleased with how much better and simpler it's looking... of course, more simplification/improvements are likely possible, with more time... but I think it's more important now to address Andre's concerns regarding assumptions.  After I address that I'll go back and do a final polishing.

File: src/Ledger/Utxo/Properties.lagda [hunk 4]
```diff
@@ -544,3 +548,198 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+
+noRefundCert : List DCert → Set _
+noRefundCert l = All (λ cert → isRefundCert cert ≡ false) l
+
+module _
+  -- ASSUMPTIONS --
+  {- 1 -} {getCoin-hom : (d₁ d₂ : DepositPurpose ⇀ Coin) → getCoin (d₁ ∪⁺ d₂) ≡ getCoin d₁ + getCoin d₂}
+  {- 2 -} {coin∅ : getCoin{A = DepositPurpose ⇀ Coin} ∅ ≡ 0}
+  {- 3 -} {⊆→∪⁺ : (d d' : DepositPurpose ⇀ Coin) → d ˢ ⊆ d' ˢ → d' ≡ d ∪⁺ d'}
+  {- 4 -} {finiteness∘listing≡id : ∀ {l} → ((proj₁ ∘ finiteness) ∘ (proj₁ ∘ listing)) l ≡ l}
```
Comment (williamdemeo) [inline src/Ledger/Utxo/Properties.lagda:570]: These new assumptions _should_ be easier to prove, but I spent quite a lot of time fighting with the set theory without success (especially assumption `{- 4 -}`) so I'm leaving them as assumptions for now, until I can resolve them myself or get help from @WhatisRT.

File: src/Ledger/Utxo.lagda [hunk 5]
```diff
@@ -134,38 +136,102 @@ module _ (let open TxBody) where
...
+  noRefund→∅ {retirepool c _} ¬isRefund = refl
+  noRefund→∅ {ccreghot c _} ¬isRefund = refl
+
+  noRefundCert : List DCert → Set _
+  noRefundCert l = All (λ cert → isRefundCert cert ≡ false) l
+
+  module _
+    -- ASSUMPTIONS --
+    {- 1 -} {getCoin-⊆     : (d₁ d₂ : DepositPurpose ⇀ Coin) → d₁ ˢ ⊆ d₂ ˢ → getCoin d₁ ≤ getCoin d₂}
+    {- 2 -} {_∪⁺∅ᵐ∣∅ˢ≡id   : (deposits :  DepositPurpose ⇀ Coin) → getCoin deposits ≡ getCoin ((deposits ∪⁺ ∅ᵐ) ∣ ∅ˢ ᶜ)}
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Ledger/Utxo.lagda]: I reduced the assumptions further.  I've also separated the supporting lemmata into modules that indicate on which assumption each lemma depends.

I'm hoping you can show me how to prove assumptions 2 and 3 (shown below).  I tried, spent a lot of extra time in the set theory weeds, probably learned a lot more, but still couldn't construct a proof that Agda would accept. 😓 

```agda
  {- 2 -} {⊆→∪⁺ : (d d' : DepositPurpose ⇀ Coin) → d ˢ ⊆ d' ˢ → d' ≡ d ∪⁺ d'}
  {- 3 -} {fin∘list∷[] : {A : Set}{a : A} → proj₁ (finiteness ❴ a ❵) ≡ [ a ]}
```

File: src/Ledger/Utxo/Properties.lagda (hunk 1 above)
Comment (williamdemeo) [reply src/Ledger/Utxo/Properties.lagda]: Because the proof is by induction on `props`.

File: src/Ledger/Utxo/Properties.lagda (hunk 4 above)
Comment (williamdemeo) [reply src/Ledger/Utxo/Properties.lagda]: I was able to prove `{- 2 -}`.

`{- 4 -}` cannot be proved as it's not necessarily true.  I replaced it with two assumptions, one for the empty list and another for a one-element list.

I have since prove it for the empty list.

File: src/Ledger/Utxo/Properties.lagda [hunk 6]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+  foldr (λ (x : DepositPurpose × Coin) → (proj₂ x) +_) 0 (deduplicate _≟_ [])
+    ≡⟨ cong (λ u → (foldr (λ (x : DepositPurpose × Coin) → (proj₂ x) +_) 0  u))
+            {x = deduplicate _≟_ []} {y = []} refl ⟩
+  foldr (λ (x : DepositPurpose × Coin) → (proj₂ x) +_) 0 []
+    ≡⟨ refl ⟩
+  0 ∎
+  where open Prelude.≡-Reasoning
+
+getCoin-singleton : ((dp , c) : DepositPurpose × Coin) → indexedSumᵛ' id ❴ (dp , c) ❵ ≡ c
+getCoin-singleton (dp , c) = begin
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:584]: Here's an alternative proof:
```
getCoin-singleton _ = indexedSum-singleton' ⦃ M = +-0-commutativeMonoid ⦄ (finiteness _)
```
The same could be done for `coin∅`, but there's only `indexedSum-∅`, not a `indexedSum-∅'` variant that works with an arbitrary finiteness proof. The proof for `indexedSum-∅'` would be the same as for `indexedSum-singleton'` if you want to do it.

File: src/Ledger/Utxo/Properties.lagda [hunk 7]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+    {- 2 -} {⊆→∪⁺ : (d d' : DepositPurpose ⇀ Coin) → d ˢ ⊆ d' ˢ → getCoin d' ≡ (getCoin d + getCoin (d' ∣ (dom d) ᶜ))}
+    where
+    getCoin-⊆ : (d d' : DepositPurpose ⇀ Coin) → d ˢ ⊆ d' ˢ → getCoin d ≤ getCoin d'
+    getCoin-⊆ d d' h = begin
+      getCoin d                             ≤⟨ m≤m+n (getCoin d) (getCoin (d' ∣ (dom d) ᶜ)) ⟩
+      getCoin d + getCoin (d' ∣ (dom d) ᶜ)  ≡⟨ sym (⊆→∪⁺ d d' h) ⟩
+      getCoin d'                            ∎
+      where open ≤-Reasoning
+
+    ∣∅ˢ≡id : {d : DepositPurpose ⇀ Coin} → getCoin d ≡ getCoin (d ∣ ∅ˢ ᶜ)
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:653]: No need to put an `ˢ` on the `∅` here, we have a typeclass

File: src/Ledger/Utxo/Properties.lagda [hunk 8]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+    ∣∅ˢ≡id {d} = ≤-antisym (getCoin-⊆ d (d ∣ ∅ˢ ᶜ) $ proj₁ (swap $ resᵐ-∅ᶜ {M = d}))
+                           (getCoin-⊆ (d ∣ ∅ˢ ᶜ) d $ proj₂ (swap $ resᵐ-∅ᶜ {M = d}))
+
+    ∪⁺∅ᵐ∣∅ˢid : {d : DepositPurpose ⇀ Coin} → getCoin d ≡ getCoin ((d ∪⁺ ∅ᵐ) ∣ ∅ˢ ᶜ)
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:657]: Same here

File: src/Ledger/Utxo/Properties.lagda [hunk 9]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+    ≤certDeps : (certs : List DCert) {d :  DepositPurpose ⇀ Coin} ((dp , c) : DepositPurpose × Coin)
+      →  getCoin d ≤ getCoin ((d ∪⁺ ❴ (dp , c) ❵ᵐ) ∣ ∅ˢ ᶜ )
+    ≤certDeps certs {d} (dp , c) = begin
+      getCoin d                              ≤⟨ m≤m+n (getCoin d) c ⟩
+      getCoin d + c                          ≡⟨ sym ∪⁺singleton≡ ⟩
+      getCoin (d ∪⁺ ❴ (dp , c) ❵ᵐ)           ≡⟨ ∣∅ˢ≡id  {d ∪⁺ ❴ (dp , c) ❵ᵐ} ⟩
+      getCoin ((d ∪⁺ ❴ (dp , c) ❵ᵐ) ∣ ∅ˢ ᶜ ) ∎
+      where open ≤-Reasoning
+
+    ≤updateCertDeps : (certs : List DCert) {pp : PParams} {deposits :  DepositPurpose ⇀ Coin}
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:669]: This proof is pretty noisy. Removing the unused arguments in each case or replacing them with `_` probably helps a bit.

File: src/Ledger/Utxo/Properties.lagda [hunk 10]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+      → noRefundCert certs → getCoin deposits ≤ getCoin (updateCertDeposits pp certs deposits)
+    ≤updateCertDeps [] nrf = ≤-reflexive refl
+    ≤updateCertDeps (delegate x x₁ x₂ x₃ ∷ certs) {pp} {deposits} (cert∉ref All.∷ nrf) =
+      ≤-trans (≤updateCertDeps certs nrf) (≤certDeps certs (CredentialDeposit x , x₃))
+    ≤updateCertDeps (regpool x x₁ ∷ certs) {pp} {deposits} (cert∉ref All.∷ nrf) =
+     ≤-trans (≤updateCertDeps certs nrf) (≤certDeps certs (PoolDeposit x , PParams.poolDeposit pp))
+    ≤updateCertDeps (retirepool x x₁ ∷ certs) {pp} {deposits} (cert∉ref All.∷ nrf) =
+      ≤-trans (≤updateCertDeps certs nrf)
+              (≤-reflexive (∪⁺∅ᵐ∣∅ˢid {updateCertDeposits pp certs deposits}))
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:678]:
```suggestion
              (≤-reflexive ∪⁺∅ᵐ∣∅ˢid)
```

File: src/Ledger/Utxo/Properties.lagda [hunk 11]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+    -- Main Theorem: General Minimum Spending Condition --
+    gmsc :  let open Tx tx renaming (body to txb); open TxBody txb
+                pp = UTxOEnv.pparams Γ; open PParams pp
+                open UTxOState utxoState
+                  renaming (utxo to st; fees to fs; deposits to deps; donations to dons)
+            in
+      Γ ⊢  ⟦ st   , fs   , deps   , dons   ⟧ᵘ ⇀⦇ tx ,UTXO⦈
+           ⟦ utxo'  , fees'  , deposits'  , donations'  ⟧ᵘ
+
+        --  →  (∀ {p} → p ∈ˡ txprop → GovProposal.deposit p ≡ govActionDeposit)
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:694]: Leftover

File: src/Ledger/Utxo/Properties.lagda [hunk 12]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+      → noRefundCert txcerts -- FINAL ASSUMPTION --
+
+         -------------------------------------------------------------------
+      →  coin (consumed pp utxoState txb) ≥ length txprop * govActionDeposit
+
+    gmsc step@(UTXO-inductive⋯ tx Γ utxoState _ _ _ _ c≡p cmint≡0 _ _ _ _ _ _ _) nrf =
+      begin
+      length txprop * govActionDeposit
+        ≡⟨ sym (updatePropDeps≡ txprop deps) ⟩
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:703]: Why not `˘` instead of `sym` like below?

File: src/Ledger/Utxo/Properties.lagda [hunk 13]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+      getCoin (updateDeposits pp txb deps) - getCoin deps
+        ≡⟨ ∸≡posPart⊖ {getCoin (updateDeposits pp txb deps)} {getCoin deps} ⟩
+      newDeps
+        ≤⟨ m≤n+m newDeps (coin balOut + txfee + txdonation) ⟩
+      coin balOut + txfee + txdonation + newDeps
+        ≡⟨ +-assoc (coin balOut + txfee) txdonation newDeps ⟩
+      coin balOut + txfee + (txdonation + newDeps)
+        ≡⟨ cong (coin balOut + txfee +_) (+-comm txdonation newDeps) ⟩
+      coin balOut + txfee + (newDeps + txdonation)
+        ≡⟨ sym (+-assoc (coin balOut + txfee) newDeps txdonation) ⟩
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:715]: Same here

File: src/Ledger/Utxo/Properties.lagda [hunk 14]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+      coin balOut + txfee + newDeps + txdonation
+        ≡˘⟨ cong (λ x → x + newDeps + txdonation) coin-hom ⟩
+      coin (balOut + inject txfee) + newDeps + txdonation
+        ≡˘⟨ cong (_+ txdonation) coin-hom ⟩
+      coin(balOut + inject txfee + inject newDeps)+ txdonation
+        ≡˘⟨ coin-hom ⟩
+      coin(balOut + inject txfee + inject newDeps + inject txdonation)
```
Comment (WhatisRT) [inline src/Ledger/Utxo/Properties.lagda:722]:
```suggestion
      coin (balOut + inject txfee + inject newDeps) + txdonation
        ≡˘⟨ coin-hom ⟩
      coin (balOut + inject txfee + inject newDeps + inject txdonation)
```

**Review by WhatisRT — COMMENTED** [review]
Looks good overall, just some cleanup that needs to be done

File: src/Ledger/Utxo/Properties.lagda [hunk 15]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+-- ⊆→∪ : (d d' : ℙ (DepositPurpose × Coin)) → d ⊆ d' → d' ≡ᵉ d' ∪ d
+-- ⊆→∪ d d' d⊆d' = ∪-⊆ˡ , λ {a} x → case from ∈-∪ x of λ where
+--   (inj₁ v) → v
+--   (inj₂ v) → d⊆d' v
+
+module _
+  -- ASSUMPTION --
+  {- 1 -} {gc-hom : (d₁ d₂ : DepositPurpose ⇀ Coin) → getCoin (d₁ ∪⁺ d₂) ≡ getCoin d₁ + getCoin d₂}
+  where
+  ∪⁺∅ᵐ≡id : ∀ {d} → getCoin d ≡ getCoin (d ∪⁺ ∅ᵐ)
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Ledger/Utxo/Properties.lagda:604]: The reason I changed this proof to inline is (a) it's a minor lemma and (b) the proof gets uglier with `≡-Reasoning` because it requires specifying implicit types for `getCoin ∅`:

```agda
  ∪⁺∅ᵐ≡id : ∀ {d} → getCoin d ≡ getCoin (d ∪⁺ ∅ᵐ)
  ∪⁺∅ᵐ≡id {d} = begin
    getCoin d
      ≡⟨ sym (+-identityʳ (getCoin d)) ⟩
    getCoin d + 0
      ≡⟨ cong (getCoin d +_) (sym coin∅) ⟩
    getCoin d + getCoin{A = DepositPurpose ⇀ Coin} ∅   --  <- here
      ≡⟨ sym (gc-hom d ∅) ⟩
    getCoin (d ∪⁺ ∅ᵐ)
      ∎
    where open Prelude.≡-Reasoning
```

File: src/Ledger/Utxo/Properties.lagda [hunk 16]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+  ∪⁺∅ᵐ≡id {d} = trans  (sym (+-identityʳ (getCoin d)))
+                       (trans  (cong (getCoin d +_) (sym coin∅))
+                               (sym (gc-hom d ∅)))
+
+  ∪⁺singleton≡ : {deps : DepositPurpose ⇀ Coin} {(dp , c) : DepositPurpose × Coin}
+                 → getCoin (deps ∪⁺ ❴ (dp , c) ❵ᵐ) ≡ getCoin deps + c
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Ledger/Utxo/Properties.lagda:610]: Okay, will do 👍🏼 (at the price of making the type for `getCoin` explicit in one place)

File: src/Ledger/Utxo/Properties.lagda (hunk 6 above)
Comment (williamdemeo) [reply src/Ledger/Utxo/Properties.lagda:583]: Nice! 🚀

Comment (williamdemeo) [reply src/Ledger/Utxo/Properties.lagda:583]: I'll revisit this and possibly implement `indexedSum-∅'` once everything else is done.

File: src/Ledger/Utxo/Properties.lagda [hunk 17]
```diff
@@ -544,3 +548,194 @@ pov {tx}{utxo}{_}{fees}{deposits}{donations} h'
...
+    ≡⟨ +-identityʳ c ⟩
+  c ∎
+  where open Prelude.≡-Reasoning
+
+-- ⊆→∪ : (d d' : ℙ (DepositPurpose × Coin)) → d ⊆ d' → d' ≡ᵉ d' ∪ d
+-- ⊆→∪ d d' d⊆d' = ∪-⊆ˡ , λ {a} x → case from ∈-∪ x of λ where
+--   (inj₁ v) → v
+--   (inj₂ v) → d⊆d' v
+
+module _
```
[the remark this answers is not in the document]
Comment (williamdemeo) [reply src/Ledger/Utxo/Properties.lagda:585]: Will organize the five getCoin-specific lemmas, putting them together.  Moving them to another module will be done in a follow-up issue.

**Review by WhatisRT — APPROVED** [review]
LGTM

**Review by jmchapman — APPROVED** [review]
